US04194044
To a suspension of 1.1 g of lithium aluminum hydride in 120 ml of anhydrous tetrahydrofuran, 10.8 g (0.03 mol) of crude (±)-3-phenyl-N-formylmorphinan in 50 ml of tetrahydrofuran was added dropwise. After the mixture had been refluxed for 3 hrs, it was cooled to room temperature and ethyl acetate followed by water were added dropwise. The resulting suspension was dried, filtered and the filtrate concentrated in vacuo to give a dark brown oil which was distilled, bp 170°-180° (0.05 mm Hq) to afford 7.6 g (73%) of crude (±)-3-phenoxy-N-methylmorphinan.

reactant | lithium aluminum hydride | 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-3-phenyl-N-formylmorphinan | 0.03 mol, 10.8 g | C1(=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C=O | C23H25NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (±)-3-phenoxy-N-methylmorphinan | 7.6 g, 73% | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C23H27NO
